### PR TITLE
refactor: bundle `wn` and `wr` into DivModState

### PR DESCRIPTION
**Pull request by alexkeizer**
@bollu: I didn't really like how `Lawful` had so many parameters flying about, and in particular, how it's basically impossible to tell what, say, `Lawful w w 0 n d qr`  means. 

So, I made a refactor to bundle `wn` and `wr` as fields of the `DivModState` (I'm a huge fan of this, it makes stuff much easier to read!), and while I was at it, also bundled `n` and `d` into a `DivModArgs` struct (this one I think is an improvement overall, but a much less clearcut one: it does make some call sites look a bit awkward).

Anyway, It's a pretty big refactor, hence the PR to your PR (the base branch of this one is the upstream PR).

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -531,129 +544,145 @@ the values are within their respective bounds.
...
-  hdPos := by assumption
-  hrLtDivisor := by simp [BitVec.lt_def] at hd ⊢; assumption
-  hrWidth := by simp [DivModState.init],
-  hqWidth := by simp [DivModState.init],
-  hdiv := by
-    simp only [DivModState.init, toNat_ofNat, zero_mod, Nat.mul_zero, Nat.add_zero];
-    rw [Nat.shiftRight_eq_div_pow]
-    apply Nat.div_eq_of_lt n.isLt
-}
+def DivModState.Lawful.init {w : Nat} (args : DivModArgs w) (hd : 0#w < args.d) :
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:580]:
```suggestion
def DivModState.init_lawful {w : Nat} (args : DivModArgs w) (hd : 0#w < args.d) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -718,61 +738,85 @@ def divSubtractShiftProof (qr : DivModState w) (h : qr.Poised  wr wn n d) :
...
-theorem divRec_correct {n d : BitVec w} (qr : DivModState w)
-    (h : DivModState.Lawful w wr wn n d qr) :
-    DivModState.Lawful w w 0 n d (divRec w wr wn n d qr) := by
-  induction wn generalizing wr qr
+theorem divRec_succ (m : Nat) (args : DivModArgs w) (qr : DivModState w) :
+    divRec (m + 1) args qr =
+      divRec m args (divSubtractShift args qr) := rfl
+
+/-- The output of `divRec` is a lawful state -/
+theorem lawful_divRec {args : DivModArgs w} {qr : DivModState w}
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:757]: I decided to rename this from the somewhat ambiguous "correct" to "lawful"

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -671,13 +690,14 @@ private theorem two_mul_add_sub_lt_of_lt_of_lt_two (h : a < x) (hy : y < 2) :
 
 /-- We show that the output of `divSubtractShift` is lawful, which tells us that it
 obeys the division equation. -/
-def divSubtractShiftProof (qr : DivModState w) (h : qr.Poised  wr wn n d) :
-    DivModState.Lawful w (wr + 1) (wn - 1) n d (divSubtractShift n d wn qr) := by
+def lawful_divSubtractShift (qr : DivModState w) (h : qr.Poised args) :
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:693]: Not a fan of `divSubtractShiftProof` as a name, so I renamed it to `lawful_...`

**Review by alexkeizer — COMMENTED** [review]
@bollu I also made some naming changes as I went along, I'm marking them with comments so you know to make those changes to the main PR even if we decide against merging this one

File: src/Init/Data/BitVec/Bitblast.lean (hunk 3 above)
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:693]:
```suggestion
theorem lawful_divSubtractShift (qr : DivModState w) (h : qr.Poised args) :
```
